US07612211B2
A. (4-trifluoromethyl-phenoxy)-acetonitrile
A mixture of 4-trifluoromethyl-phenol (25.0 g, 0.154 mol), bromoacetonitrile (12.9 mL, 0.185 mol), sodium carbonate (32.7 g, 0.308 mol), and sodium iodide (23.1 g, 0.154 mol) in 214 mL of DMF was heated at 100° C. for 2 hours. The reaction was cooled, and partitioned between water and EtOAc. The organic layers were washed with water and brine, dried with Na2SO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, hexanes:EtOAc, 4:1) to afford the title compound as a colorless oil (29.8 g, 96%). 1H NMR (400 MHz, CD3Cl) δ (ppm): 7.63 (d, 2H), 7.07 (d, 2H), 4.83 (s, 2H).

reactant | 4-trifluoromethyl-phenol | 0.154 mol, 25.0 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | bromoacetonitrile | 0.185 mol, 12.9 mL | BrCC#N | C2H2BrN
reactant | sodium carbonate | 0.308 mol, 32.7 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.154 mol, 23.1 g | [I-].[Na+]
solvent | DMF | 214 mL | CN(C)C=O | C3H7NO
product | (4-trifluoromethyl-phenoxy)-acetonitrile | 29.8 g, 96% | FC(C1=CC=C(OCC#N)C=C1)(F)F | C9H6F3NO
